*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:21:01 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "DFFTRX2"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  DFFTRX2 CK RN Q D QN
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET CK 2.12748e-16
*|P (CK X 0 3.3000 0.6650)
*|I (Mmn20:g Mmn20 g X 0 3.3025 0.5875)
*|I (Mmp20:g Mmp20 g X 0 3.3775 1.0075)
*|S (CK:2 3.3400 0.8000)
C1 Mmp20:g VSS 2.80175e-17
C2 Mmn20:g VSS 3.24046e-17
C3 CK:2 VSS 1.01444e-16
C4 CK VSS 5.08817e-17
Rl1 CK:2 Mmn20:g 41.758244 $W=0.039
Rl2 Mmp20:g CK:2 26.923077 $W=0.039
Rk3 CK CK:2 45.079319 $W=0.1
*
*|NET RN 2.98241e-16
*|P (RN X 0 0.5000 1.0450)
*|I (Mmn0:g Mmn0 g X 0 0.4025 0.4275)
*|I (Mmp0:g Mmp0 g X 0 0.4375 1.1275)
*|S (RN:1 0.4900 0.9200)
*|S (RN:2 0.4375 0.9200)
C5 Mmp0:g VSS 4.01967e-17
C6 Mmn0:g VSS 7.63621e-17
C7 RN:2 VSS 3.26192e-17
C8 RN:1 VSS 1.14542e-16
C9 RN VSS 3.45203e-17
Rl4 RN:1 RN:2 45.521347 $W=0.094
Rl5 RN:2 Mmn0:g 157.990112 $W=0.039
Rl6 RN:2 Mmp0:g 34.329510 $W=0.039
Rk7 RN RN:1 0.075012 $W=0.1
*
*|NET Q 1.64592e-16
*|P (Q X 0 3.7000 0.6650)
*|I (Mmn55:d Mmn55 d X 0 3.7200 0.5300)
*|I (Mmp55@1:d Mmp55@1 d X 0 3.7500 1.0950)
C10 Mmp55@1:d VSS 9.69743e-17
C11 Mmn55:d VSS 3.61485e-17
C12 Q VSS 3.14692e-17
Rk8 Mmn55:d Q 75.033264 $W=0.1225
Rk9 Mmp55@1:d Q 21.002901 $W=0.08
*
*|NET D 2.32222e-16
*|P (D X 0 0.1000 0.6650)
*|I (Mmn1:g Mmn1 g X 0 0.2975 0.4275)
*|I (Mmp1:g Mmp1 g X 0 0.2275 1.1275)
*|S (D:2 0.2275 0.6350)
*|S (D:3 0.1700 0.6350)
C13 Mmp1:g VSS 4.10443e-17
C14 Mmn1:g VSS 4.5484e-17
C15 D:2 VSS 3.23404e-17
C16 D:3 VSS 9.65996e-17
C17 D VSS 1.67534e-17
Rl10 D:2 D:3 49.540199 $W=0.114
Rl11 Mmn1:g D:2 57.201897 $W=0.039
Rl12 D:2 Mmp1:g 130.231125 $W=0.039
Rk13 D D:3 0.019693 $W=0.172
*
*|NET QN 1.68913e-16
*|P (QN X 0 4.1000 0.6650)
*|I (Mmn57:d Mmn57 d X 0 4.1900 0.5300)
*|I (Mmp57@1:d Mmp57@1 d X 0 4.1600 1.0950)
*|S (QN:2 4.1900 0.6000)
C18 Mmp57@1:d VSS 9.12006e-17
C19 Mmn57:d VSS 3.93036e-17
C20 QN VSS 3.84084e-17
Rk14 QN:2 QN 0.027332 $W=0.12
Rk15 QN:2 Mmn57:d 75.000000 $W=0.1
Rk16 Mmp57@1:d QN 20.922672 $W=0.1
*
*|NET n0 1.48018e-18
*|I (Mmn1:s Mmn1 s X 0 0.3500 0.4275)
*|I (Mmn0:d Mmn0 d X 0 0.3500 0.4275)
C21 Mmn1:s VSS 1.48018e-18
Rmw17 Mmn0:d Mmn1:s 0.001000 $W=1
*
*|NET Db 4.48473e-16
*|I (Mmn1:d Mmn1 d X 0 0.2050 0.4275)
*|I (Mmn25:s Mmn25 s X 0 0.9200 0.5875)
*|I (Mmp1:d Mmp1 d X 0 0.3325 1.1275)
*|I (Mmp25:s Mmp25 s X 0 1.0950 1.1675)
*|S (Db:2 0.9100 1.2275)
*|S (Db:4 0.3300 1.0900)
C22 Mmp25:s VSS 3.01991e-17
C23 Mmp1:d VSS 1.44025e-16
C24 Mmn25:s VSS 9.14919e-17
C25 Mmn1:d VSS 8.73687e-17
C26 Db:2 VSS 9.53891e-17
Rk18 Db:2 Db:4 0.549516 $W=0.09
Rk19 Db:4 Mmn1:d 75.550644 $W=0.09
Rk20 Mmn25:s Db:2 75.414589 $W=0.09
Rk21 Mmp1:d Db:4 62.000000 $W=0.09
Rk22 Db:2 Mmp25:s 62.074291 $W=0.155
*
*|NET CKbb 9.74802e-16
*|I (Mmn21:d Mmn21 d X 0 0.7000 0.4275)
*|I (Mmn36:g Mmn36 g X 0 1.3975 0.5875)
*|I (Mmn40:g Mmn40 g X 0 2.0925 0.5875)
*|I (Mmp21:d Mmp21 d X 0 0.7250 1.1275)
*|I (Mmp25:g Mmp25 g X 0 1.1875 1.1675)
*|I (Mmp51:g Mmp51 g X 0 2.4025 1.1675)
*|S (CKbb:2 1.1000 0.9000)
*|S (CKbb:4 1.3600 0.3350)
*|S (CKbb:6 2.0650 0.8200)
*|S (CKbb:8 2.3400 0.9200)
*|S (CKbb:9 2.1500 0.8200)
*|S (CKbb:10 1.3600 0.4100)
*|S (CKbb:11 1.0700 0.4100)
*|S (CKbb:13 0.7100 0.4400)
C27 Mmp51:g VSS 5.30541e-17
C28 Mmp25:g VSS 4.10531e-17
C29 Mmp21:d VSS 8.32556e-17
C30 Mmn40:g VSS 3.32598e-17
C31 Mmn36:g VSS 8.11894e-17
C32 Mmn21:d VSS 8.26798e-17
C33 CKbb:11 VSS 6.5047e-17
C34 CKbb:10 VSS 9.48569e-17
C35 CKbb:9 VSS 1.22891e-16
C36 CKbb:2 VSS 1.15109e-16
C37 CKbb:4 VSS 3.92059e-17
C38 CKbb:6 VSS 6.3608e-17
C39 CKbb:8 VSS 9.95922e-17
Rl23 Mmn36:g CKbb:4 100.002060 $W=0.039
Rl24 Mmn40:g CKbb:6 93.768700 $W=0.039
Rl25 Mmp25:g CKbb:2 107.974594 $W=0.039
Rl26 Mmp51:g CKbb:8 91.369507 $W=0.039
Rk27 CKbb:8 CKbb:9 0.223094 $W=0.08
Rk28 CKbb:9 CKbb:6 0.027843 $W=0.12
Rk29 CKbb:10 CKbb:4 0.022828 $W=0.12
Rk30 CKbb:9 CKbb:10 0.888307 $W=0.08
Rk31 CKbb:11 CKbb:2 0.359046 $W=0.08
Rk32 CKbb:10 CKbb:11 0.232204 $W=0.09
Rk33 CKbb:11 CKbb:13 0.262329 $W=0.09
Rk34 Mmn21:d CKbb:13 75.000000 $W=0.0815
Rk35 CKbb:13 Mmp21:d 62.501392 $W=0.0815
*
*|NET CKb 9.76015e-16
*|I (Mmn21:g Mmn21 g X 0 0.6075 0.4275)
*|I (Mmn25:g Mmn25 g X 0 1.0125 0.5875)
*|I (Mmn51:g Mmn51 g X 0 2.4125 0.5875)
*|I (Mmn20:d Mmn20 d X 0 3.1600 0.5875)
*|I (Mmp21:g Mmp21 g X 0 0.6325 1.1275)
*|I (Mmp36:g Mmp36 g X 0 1.3925 1.1675)
*|I (Mmp40:g Mmp40 g X 0 2.1975 1.1675)
*|I (Mmp20:d Mmp20 d X 0 3.2850 1.0075)
*|S (CKb:1 1.3550 1.3750)
*|S (CKb:3 1.0125 0.7575)
*|S (CKb:4 0.6425 0.7575)
*|S (CKb:10 2.1600 1.3750)
*|S (CKb:12 3.2750 1.0550)
C40 Mmp20:d VSS 1.48722e-16
C41 Mmp40:g VSS 6.42446e-17
C42 Mmp36:g VSS 8.68408e-17
C43 Mmp21:g VSS 5.55487e-17
C44 Mmn20:d VSS 9.51152e-17
C45 Mmn51:g VSS 8.95288e-17
C46 Mmn25:g VSS 2.29223e-17
C47 Mmn21:g VSS 3.73998e-17
C48 CKb:4 VSS 4.68542e-17
C49 CKb:3 VSS 5.88186e-17
C50 CKb:1 VSS 9.87713e-17
C51 CKb:10 VSS 1.71248e-16
Rl36 CKb:3 CKb:4 139.704773 $W=0.039
Rl37 CKb:4 Mmn21:g 102.754066 $W=0.039
Rl38 CKb:3 Mmn25:g 30.450726 $W=0.039
Rl39 CKb:4 Mmp21:g 99.361839 $W=0.039
Rl40 CKb:1 Mmp36:g 69.232826 $W=0.039
Rl41 Mmp36:g CKb:3 234.158920 $W=0.039
Rl42 Mmp40:g CKb:10 69.232826 $W=0.039
Rl43 Mmn51:g Mmp40:g 218.796417 $W=0.039
Rk44 CKb:10 CKb:1 0.549799 $W=0.09
Rk45 CKb:10 CKb:12 0.966522 $W=0.09
Rk46 CKb:12 Mmn20:d 75.482361 $W=0.08
Rk47 Mmp20:d CKb:12 62.000000 $W=0.09
*
*|NET n20 3.01149e-16
*|I (Mmn25:d Mmn25 d X 0 1.2050 0.5875)
*|I (Mmn30:g Mmn30 g X 0 1.7725 0.5875)
*|I (Mmp25:d Mmp25 d X 0 1.2900 1.1675)
*|I (Mmp30:g Mmp30 g X 0 1.7725 1.1675)
*|S (n20:2 1.7725 0.7700)
*|S (n20:3 1.7150 0.7700)
*|S (n20:5 1.2900 0.7700)
C52 Mmp30:g VSS 4.65521e-17
C53 Mmp25:d VSS 3.84288e-17
C54 Mmn30:g VSS 3.1632e-17
C55 Mmn25:d VSS 3.947e-17
C56 n20:5 VSS 5.26593e-17
C57 n20:2 VSS 2.43801e-17
C58 n20:3 VSS 6.8027e-17
Rl48 n20:2 n20:3 46.230148 $W=0.114
Rl49 n20:2 Mmn30:g 37.341133 $W=0.039
Rl50 Mmp30:g n20:2 106.571899 $W=0.039
Rk51 n20:3 n20:5 0.285120 $W=0.09
Rk52 n20:5 Mmn25:d 75.127724 $W=0.09
Rk53 n20:5 Mmp25:d 62.253258 $W=0.09
*
*|NET n25 0
*|I (Mmn36:s Mmn36 s X 0 1.4525 0.5875)
*|I (Mmn35:d Mmn35 d X 0 1.4525 0.5875)
Rmw54 Mmn35:d Mmn36:s 0.001000 $W=1
*
*|NET mout 3.64613e-16
*|I (Mmn35:g Mmn35 g X 0 1.5075 0.5875)
*|I (Mmn30:d Mmn30 d X 0 1.9325 0.5875)
*|I (Mmp35:g Mmp35 g X 0 1.5075 1.1675)
*|I (Mmp30:d Mmp30 d X 0 1.9850 1.1675)
*|S (mout:2 1.5450 0.9600)
*|S (mout:5 1.9050 0.9600)
C59 Mmp30:d VSS 2.19313e-17
C60 Mmp35:g VSS 5.68065e-17
C61 Mmn30:d VSS 7.18634e-17
C62 Mmn35:g VSS 7.04852e-17
C63 mout:5 VSS 5.21324e-17
C64 mout:2 VSS 9.13946e-17
Rl55 mout:2 Mmn35:g 101.155907 $W=0.039
Rl56 Mmp35:g mout:2 24.232828 $W=0.039
Rk57 mout:5 mout:2 45.241745 $W=0.09
Rk58 Mmn30:d mout:5 75.294548 $W=0.09
Rk59 mout:5 Mmp30:d 62.117561 $W=0.1
*
*|NET n30 3.54557e-16
*|I (Mmn40:d Mmn40 d X 0 2.2525 0.5875)
*|I (Mmn45:g Mmn45 g X 0 2.7525 0.5575)
*|I (Mmp40:d Mmp40 d X 0 2.3000 1.1675)
*|I (Mmp45:g Mmp45 g X 0 2.8225 1.2150)
*|S (n30:2 2.7525 0.7600)
*|S (n30:3 2.7000 0.7600)
*|S (n30:5 2.5300 0.7600)
C65 Mmp45:g VSS 6.31509e-17
C66 Mmp40:d VSS 6.26635e-17
C67 Mmn45:g VSS 3.27395e-17
C68 Mmn40:d VSS 6.08835e-17
C69 n30:5 VSS 5.03e-17
C70 n30:3 VSS 8.48198e-17
Rl60 n30:2 n30:3 49.351101 $W=0.094
Rl61 n30:2 Mmn45:g 23.740160 $W=0.039
Rl62 Mmp45:g n30:2 123.385292 $W=0.039
Rk63 n30:3 n30:5 0.132019 $W=0.08
Rk64 n30:5 Mmn40:d 75.277672 $W=0.09
Rk65 n30:5 Mmp40:d 62.371380 $W=0.08
*
*|NET n35 0
*|I (Mmn51:s Mmn51 s X 0 2.4650 0.5875)
*|I (Mmn50:d Mmn50 d X 0 2.4650 0.5875)
Rmw66 Mmn50:d Mmn51:s 0.001000 $W=1
*
*|NET qbint 1.00153e-15
*|I (Mmn50:g Mmn50 g X 0 2.5175 0.5875)
*|I (Mmn45:d Mmn45 d X 0 2.8450 0.5575)
*|I (Mmn55:g Mmn55 g X 0 3.6175 0.5300)
*|I (Mmn56:g Mmn56 g X 0 4.5575 0.5875)
*|I (Mmp50:g Mmp50 g X 0 2.5575 1.1675)
*|I (Mmp45:d Mmp45 d X 0 2.9150 1.2150)
*|I (Mmp56:g Mmp56 g X 0 4.4975 1.0075)
*|S (qbint:1 2.6900 0.9500)
*|S (qbint:2 2.5575 0.9500)
*|S (qbint:13 4.6150 0.4050)
*|S (qbint:19 2.8550 0.5150)
*|S (qbint:20 2.8900 0.9800)
C71 Mmp56:g VSS 4.12943e-17
C72 Mmp45:d VSS 3.64392e-17
C73 Mmp50:g VSS 4.66423e-17
C74 Mmn56:g VSS 2.81165e-17
C75 Mmn55:g VSS 4.38655e-16
C76 Mmn45:d VSS 1.0291e-16
C77 Mmn50:g VSS 7.98245e-17
C78 qbint:20 VSS 4.80561e-17
C79 qbint:2 VSS 2.79136e-17
C80 qbint:1 VSS 6.92871e-17
C81 qbint:13 VSS 8.23877e-17
Rl67 qbint:1 qbint:2 55.937386 $W=0.114
Rl68 qbint:2 Mmn50:g 106.581146 $W=0.039
Rl69 qbint:13 Mmn56:g 76.984550 $W=0.039
Rl70 qbint:2 Mmp50:g 37.341133 $W=0.039
Rl71 Mmn56:g Mmp56:g 97.642570 $W=0.039
Rk72 qbint:20 qbint:1 0.116221 $W=0.09
Rk73 qbint:20 qbint:19 0.408497 $W=0.08
Rk74 qbint:19 Mmn45:d 75.000000 $W=0.09
Rk75 Mmn55:g qbint:13 0.497073 $W=0.09
Rk76 qbint:19 Mmn55:g 0.552754 $W=0.09
Rk77 qbint:20 Mmp45:d 62.145798 $W=0.09
*
*|NET qint 2.67995e-16
*|I (Mmn57:g Mmn57 g X 0 4.0875 0.5300)
*|I (Mmn56:d Mmn56 d X 0 4.6500 0.5875)
*|I (Mmp56:d Mmp56 d X 0 4.5900 1.0075)
*|S (qint:8 4.6000 0.7800)
C82 Mmp56:d VSS 1.75327e-17
C83 Mmn56:d VSS 2.47461e-17
C84 Mmn57:g VSS 2.00419e-16
C85 qint:8 VSS 2.52973e-17
Rk78 qint:8 Mmn57:g 45.195412 $W=0.09
Rk79 qint:8 Mmn56:d 75.171303 $W=0.1
Rk80 qint:8 Mmp56:d 62.106331 $W=0.095
*
*|NET n26 0
*|I (Mmp36:s Mmp36 s X 0 1.4500 1.1675)
*|I (Mmp35:d Mmp35 d X 0 1.4500 1.1675)
Rmw81 Mmp35:d Mmp36:s 0.001000 $W=1
*
*|NET n36 2.01546e-18
*|I (Mmp51:s Mmp51 s X 0 2.4800 1.1675)
*|I (Mmp50:d Mmp50 d X 0 2.4800 1.1675)
C86 Mmp51:s VSS 2.01546e-18
Rmw82 Mmp50:d Mmp51:s 0.001000 $W=1
*
*Instance Section
*
Mmn1	Mmn1:d	Mmn1:g	Mmn1:s	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0203P	AS=0.0087P	PD=0.57U	PS=0.41U
+ fw=1.45e-07 sa=1.4e-07 sb=4.5e-07 sca=9.50767 scb=0.00818119 scc=0.00019576
Mmn0	Mmn0:d	Mmn0:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0087P	AS=0.0232P	PD=0.41U	PS=0.61U
+ fw=1.45e-07 sa=2.45e-07 sb=3.45e-07 sca=9.50767 scb=0.00818119 scc=0.00019576
Mmn21	Mmn21:d	Mmn21:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.0232P	PD=0.57U	PS=0.61U
+ fw=1.45e-07 sa=4.5e-07 sb=1.4e-07 sca=9.50767 scb=0.00818119 scc=0.00019576
Mmn25	Mmn25:d	Mmn25:g	Mmn25:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0493P	AS=0.0203P	PD=0.97U	PS=0.57U
+ fw=1.45e-07 sa=1.4e-07 sb=1.88e-06 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn36	Mmn25:d	Mmn36:g	Mmn36:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0493P	AS=0.00943P	PD=0.97U	PS=0.42U
+ fw=1.45e-07 sa=5.25e-07 sb=1.495e-06 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn35	Mmn35:d	Mmn35:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.00943P	AS=0.0841P	PD=0.42U	PS=1.6U
+ fw=1.45e-07 sa=6.35e-07 sb=1.385e-06 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn30	Mmn30:d	Mmn30:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.03988P	AS=0.0841P	PD=0.84U	PS=1.6U
+ fw=1.45e-07 sa=9e-07 sb=1.12e-06 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn40	Mmn40:d	Mmn40:g	Mmn30:d	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.03988P	AS=0.03988P	PD=0.84U	PS=0.84U
+ fw=1.45e-07 sa=1.22e-06 sb=8e-07 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn51	Mmn40:d	Mmn51:g	Mmn51:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.03988P	AS=0.0087P	PD=0.84U	PS=0.41U
+ fw=1.45e-07 sa=1.54e-06 sb=4.8e-07 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn50	Mmn50:d	Mmn50:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0087P	AS=0.03595P	PD=0.41U	PS=0.79U
+ fw=1.45e-07 sa=1.645e-06 sb=3.75e-07 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn45	Mmn45:d	Mmn45:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.0287P	AS=0.03595P	PD=0.69U	PS=0.79U
+ fw=2.05e-07 sa=1.37073e-06 sb=1.4e-07 sca=19.867 scb=0.0198061 scc=0.00201945
Mmn20	Mmn20:d	Mmn20:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0348P	AS=0.0971P	PD=0.77U	PS=1.7U
+ fw=1.45e-07 sa=2.4e-07 sb=1.395e-06 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn56	Mmn56:d	Mmn56:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.08985P	PD=0.57U	PS=1.6U
+ fw=1.45e-07 sa=1.495e-06 sb=1.4e-07 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn55	Mmn55:d	Mmn55:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.09635P	PD=0.84U	PS=1.65U	M=2
+ fw=2.6e-07 sa=3.84712e-07 sb=9.76058e-07 sca=17.5885 scb=0.0172826 scc=0.00162584
Mmn57	Mmn57:d	Mmn57:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.09273P	PD=0.84U	PS=1.6U	M=2
+ fw=2.6e-07 sa=8.54712e-07 sb=5.06058e-07 sca=17.5885 scb=0.0172826 scc=0.00162584
Mmp1	Mmp1:d	Mmp1:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.03548P	AS=0.0301P	PD=0.76U	PS=0.71U
+ fw=2.15e-07 sa=1.4e-07 sb=5.45e-07 sca=27.2529 scb=0.0321202 scc=0.00197428
Mmp0	Mmp1:d	Mmp0:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.03548P	AS=0.05515P	PD=0.76U	PS=1.45U
+ fw=2.15e-07 sa=3.5e-07 sb=3.35e-07 sca=19.1286 scb=0.0193134 scc=0.00106338
Mmp21	Mmp21:d	Mmp21:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0301P	AS=0.05515P	PD=0.71U	PS=1.45U
+ fw=2.15e-07 sa=5.45e-07 sb=1.4e-07 sca=17.1675 scb=0.0165438 scc=0.00103968
Mmp25	Mmp25:d	Mmp25:g	Mmp25:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0344P	AS=0.0301P	PD=0.75U	PS=0.71U
+ fw=2.15e-07 sa=1.4e-07 sb=1.775e-06 sca=13.4114 scb=0.012694 scc=0.000544005
Mmp36	Mmp25:d	Mmp36:g	Mmp36:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0344P	AS=0.01505P	PD=0.75U	PS=0.57U
+ fw=2.15e-07 sa=3.45e-07 sb=1.57e-06 sca=13.4114 scb=0.012694 scc=0.000544005
Mmp35	Mmp35:d	Mmp35:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.01505P	AS=0.0899P	PD=0.57U	PS=1.58U
+ fw=2.15e-07 sa=4.6e-07 sb=1.455e-06 sca=13.4114 scb=0.012694 scc=0.000544005
Mmp30	Mmp30:d	Mmp30:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0817P	AS=0.0899P	PD=1.19U	PS=1.58U
+ fw=2.15e-07 sa=7.25e-07 sb=1.19e-06 sca=13.4114 scb=0.012694 scc=0.000544005
Mmp40	Mmp40:d	Mmp40:g	Mmp30:d	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0344P	AS=0.0817P	PD=0.75U	PS=1.19U
+ fw=2.15e-07 sa=1.15e-06 sb=7.65e-07 sca=13.4114 scb=0.012694 scc=0.000544005
Mmp51	Mmp40:d	Mmp51:g	Mmp51:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0344P	AS=0.02365P	PD=0.75U	PS=0.65U
+ fw=2.15e-07 sa=1.355e-06 sb=5.6e-07 sca=13.4114 scb=0.012694 scc=0.000544005
Mmp50	Mmp50:d	Mmp50:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.02365P	AS=0.09465P	PD=0.65U	PS=1.58U
+ fw=2.15e-07 sa=1.51e-06 sb=4.05e-07 sca=13.4114 scb=0.012694 scc=0.000544005
Mmp45	Mmp45:d	Mmp45:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0434P	AS=0.09465P	PD=0.9U	PS=1.58U
+ fw=3.1e-07 sa=1.28315e-06 sb=1.4e-07 sca=12.3129 scb=0.0108562 scc=0.00039161
Mmp20	Mmp20:d	Mmp20:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0301P	AS=0.07288P	PD=0.71U	PS=1.23U
+ fw=2.15e-07 sa=1.4e-07 sb=1.26e-06 sca=45.7906 scb=0.0283307 scc=0.00588417
Mmp56	Mmp56:d	Mmp56:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0301P	AS=0.06535P	PD=0.71U	PS=1.16U
+ fw=2.15e-07 sa=1.26e-06 sb=1.4e-07 sca=52.4731 scb=0.0379902 scc=0.00614793
Mmp55@1	Mmp55@1:d	Mmn55:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.06764P	PD=1.1U	PS=1.165U	M=2
+ fw=3.9e-07 sa=2.88846e-07 sb=8.84551e-07 sca=30.5009 scb=0.0202006 scc=0.00336097
Mmp57@1	Mmp57@1:d	Mmn57:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.06388P	PD=1.1U	PS=1.13U	M=2
+ fw=3.9e-07 sa=6.98846e-07 sb=4.74551e-07 sca=31.0979 scb=0.0204275 scc=0.00336106
.ENDS
.END
