*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:21:59 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "DLY1X1"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  DLY1X1 Y A
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET Y 1.04925e-16
*|P (Y X 0 1.7000 0.6650)
*|I (Mmn4:d Mmn4 d X 0 1.6800 0.5100)
*|I (Mmp4:d Mmp4 d X 0 1.6800 1.0950)
C1 Mmp4:d VSS 6.38368e-17
C2 Mmn4:d VSS 1.56035e-17
C3 Y VSS 2.54847e-17
Rk1 Y Mmn4:d 75.050911 $W=0.1
Rk2 Y Mmp4:d 20.924213 $W=0.1
*
*|NET A 2.351e-16
*|P (A X 0 0.5000 0.8550)
*|I (Mmn0:g Mmn0 g X 0 0.2825 0.3075)
*|I (Mmp0:g Mmp0 g X 0 0.2825 1.0525)
*|S (A:2 0.3100 0.8350)
C4 Mmp0:g VSS 2.95442e-17
C5 Mmn0:g VSS 5.12831e-17
C6 A:2 VSS 6.98521e-17
C7 A VSS 8.44207e-17
Rl3 A:2 Mmn0:g 162.230240 $W=0.039
Rl4 Mmp0:g A:2 29.537928 $W=0.039
Rk5 A:2 A 45.086517 $W=0.125
*
*|NET n0 2.86103e-16
*|I (Mmn0:d Mmn0 d X 0 0.1750 0.3075)
*|I (Mmn1:g Mmn1 g X 0 0.4875 0.3075)
*|I (Mmp0:d Mmp0 d X 0 0.1750 1.0525)
*|I (Mmp1:g Mmp1 g X 0 0.4875 1.0525)
*|S (n0:2 0.4600 0.4900)
*|S (n0:4 0.1500 0.4900)
C8 Mmp1:g VSS 5.83566e-17
C9 Mmp0:d VSS 4.11999e-17
C10 Mmn1:g VSS 3.23186e-17
C11 Mmn0:d VSS 2.13963e-17
C12 n0:4 VSS 3.46878e-17
C13 n0:2 VSS 9.81443e-17
Rl6 n0:2 Mmn1:g 29.537926 $W=0.039
Rl7 Mmp1:g n0:2 162.230240 $W=0.039
Rk8 n0:2 n0:4 45.194870 $W=0.09
Rk9 n0:4 Mmn0:d 75.124931 $W=0.095
Rk10 n0:4 Mmp0:d 62.361809 $W=0.09
*
*|NET n4 0
*|I (Mmn1:d Mmn1 d X 0 0.5750 0.3075)
*|I (Mmn2:s Mmn2 s X 0 0.5750 0.3075)
Rmw11 Mmn2:s Mmn1:d 0.001000 $W=1
*
*|NET n1 3.64364e-16
*|I (Mmn2:d Mmn2 d X 0 0.7875 0.3075)
*|I (Mmn3:g Mmn3 g X 0 1.3525 0.5675)
*|I (Mmp2:d Mmp2 d X 0 0.8200 1.0525)
*|I (Mmp3:g Mmp3 g X 0 1.3525 1.0075)
*|S (n1:2 1.3250 0.7900)
*|S (n1:4 1.0500 0.7900)
C14 Mmp3:g VSS 3.84213e-17
C15 Mmp2:d VSS 5.01671e-17
C16 Mmn3:g VSS 3.22277e-17
C17 Mmn2:d VSS 7.46699e-17
C18 n1:4 VSS 9.19557e-17
C19 n1:2 VSS 7.69223e-17
Rl12 n1:2 Mmn3:g 44.922543 $W=0.039
Rl13 Mmp3:g n1:2 29.537928 $W=0.039
Rk14 n1:2 n1:4 45.184628 $W=0.08
Rk15 n1:4 Mmn2:d 75.488365 $W=0.08
Rk16 n1:4 Mmp2:d 62.286671 $W=0.09
*
*|NET n2 3.05092e-16
*|I (Mmn3:d Mmn3 d X 0 1.2600 0.5675)
*|I (Mmn4:g Mmn4 g X 0 1.5875 0.5100)
*|I (Mmp3:d Mmp3 d X 0 1.2600 1.0075)
*|I (Mmp4:g Mmp4 g X 0 1.5875 1.0950)
*|S (n2:2 1.5875 0.7400)
*|S (n2:3 1.5300 0.7400)
C20 Mmp4:g VSS 4.69415e-17
C21 Mmp3:d VSS 5.27405e-17
C22 Mmn4:g VSS 3.5342e-17
C23 Mmn3:d VSS 5.03482e-17
C24 n2:2 VSS 1.3386e-17
C25 n2:3 VSS 1.06334e-16
Rl17 n2:2 n2:3 46.266560 $W=0.094
Rl18 n2:2 Mmn4:g 34.329510 $W=0.039
Rl19 Mmp4:g n2:2 57.406429 $W=0.039
Rk20 Mmn3:d n2:3 75.268570 $W=0.08
Rk21 n2:3 Mmp3:d 62.349155 $W=0.08
*
*|NET n5 2.76898e-18
*|I (Mmp1:d Mmp1 d X 0 0.6075 1.0525)
*|I (Mmp2:s Mmp2 s X 0 0.6075 1.0525)
C26 Mmp1:d VSS 2.76898e-18
Rmw22 Mmp2:s Mmp1:d 0.001000 $W=1
*
*Instance Section
*
Mmn0	Mmn0:d	Mmn0:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.02465P	AS=0.0232P	PD=0.63U	PS=0.61U
+ fw=1.45e-07 sa=1.7e-07 sb=5.85e-07 sca=6.67224 scb=0.00331168 scc=2.36561e-05
Mmn1	Mmn1:d	Mmn1:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.01885P	AS=0.0232P	PD=0.55U	PS=0.61U
+ fw=1.45e-07 sa=3.75e-07 sb=3.8e-07 sca=6.67224 scb=0.00331168 scc=2.36561e-05
Mmn2	Mmn2:d	VDD	Mmn2:s	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.02973P	AS=0.01885P	PD=0.7U	PS=0.55U
+ fw=1.45e-07 sa=5.5e-07 sb=2.05e-07 sca=6.67224 scb=0.00331168 scc=2.36561e-05
Mmn3	Mmn3:d	Mmn3:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0203P	AS=0.04365P	PD=0.57U	PS=0.9U
+ fw=1.45e-07 sa=1.4e-07 sb=3.75e-07 sca=19.8813 scb=0.0206549 scc=0.00197265
Mmn4	Mmn4:d	Mmn4:g	VSS	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0364P	AS=0.04365P	PD=0.8U	PS=0.9U
+ fw=2.6e-07 sa=2.71058e-07 sb=1.4e-07 sca=15.3338 scb=0.0153436 scc=0.00119435
Mmp0	Mmp0:d	Mmp0:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.03655P	AS=0.0344P	PD=0.77U	PS=0.75U
+ fw=2.15e-07 sa=1.7e-07 sb=5.85e-07 sca=34.7345 scb=0.0347529 scc=0.00361149
Mmp1	Mmp1:d	Mmp1:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.04193P	AS=0.0344P	PD=0.82U	PS=0.75U
+ fw=2.15e-07 sa=3.75e-07 sb=3.8e-07 sca=29.5145 scb=0.0258721 scc=0.00324978
Mmp2	Mmp2:d	VSS	Mmp2:s	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0301P	AS=0.04193P	PD=0.71U	PS=0.82U
+ fw=2.15e-07 sa=6.15e-07 sb=1.4e-07 sca=27.7866 scb=0.0238669 scc=0.00324002
Mmp3	Mmp3:d	Mmp3:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0301P	AS=0.06535P	PD=0.71U	PS=1.16U
+ fw=2.15e-07 sa=1.4e-07 sb=3.75e-07 sca=48.724 scb=0.031482 scc=0.00590454
Mmp4	Mmp4:d	Mmp4:g	VDD	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.0546P	AS=0.06535P	PD=1.06U	PS=1.16U
+ fw=3.9e-07 sa=2.69551e-07 sb=1.4e-07 sca=43.1032 scb=0.0380646 scc=0.00455683
.ENDS
.END
